US06063789
1-Amino-3-methyl-3,4-dihydroisoquinoline hydroiodide
A mixture of 1-ethylthio-3,4-dihydro-3-methylisoquinoline (M. Gittos et al, J. Chem. Soc., Perkin I, 1976, 33) (0.68 g, 3.3 mmol), ammonium iodide (0.48 g, 3.3 mmol) and ammonia (2M in methanol, 4 ml) in ethanol (4 ml) was heated at reflux for 4 h. The mixture was allowed to cool and diethyl ether (100 ml) was added. Some dark oil which separated on standing was decanted and the remaining clear solution stood at -20 ° for 24 h. The resulting crystals were collected, washed with diethyl ether and dried to afford the product as pale yellow prisms (370 mg), m.p. 114-116° C.

reactant | 1-ethylthio-3,4-dihydro-3-methylisoquinoline | 3.3 mmol, 0.68 g | C(C)SC1=NC(CC2=CC=CC=C12)C | C12H15NS
reactant | ammonium iodide | 3.3 mmol, 0.48 g | [I-].[NH4+]
reactant | ammonia | 2M, 4 ml | N | H3N
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-Amino-3-methyl-3,4-dihydroisoquinoline hydroiodide | 370 mg | I.NC1=NC(CC2=CC=CC=C12)C | InChI=1S/C10H12N2.HI/c1-7-6-8-4-2-3-5-9(8)10(11)12-7;/h2-5,7H,6H2,1H3,(H2,11,12);1H
